US07449582B2
Step A: Preparation of 2,6-dichloro-3-nitrophenyl-acetonitrile
To a solution of 2,6-dichloro-phenyl-acetonitrile (15.0 g, 80.62 mmol) in the dichloromethane (50 mL) and H2SO4 (40 mL) is added (slowly) a mixture of H2SO4 (14 mL) and HNO3 (5.5 mL) at 0° C. The reaction mixture is stirred at 0° C. for 20 minutes, warned to room temperature for half hour, and then concentrated to remove organic solvent. The solution is poured into a beaker containing ice-water (400 mL) to give a crystalline precipitate, which is collected by vacuum filtration and washed with water to afford the product (20.44 g, 82.4%).

reactant | 2,6-dichloro-phenyl-acetonitrile | 80.62 mmol, 15.0 g | ClC1=C(C(=CC=C1)Cl)CC#N | C8H5Cl2N
reactant | HNO3 | 5.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | H2SO4 | 40 mL | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 14 mL | OS(=O)(=O)O | H2O4S
product | 2,6-dichloro-3-nitrophenyl-acetonitrile | 20.44 g, 82.4% | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)CC#N | C8H4Cl2N2O2
